US06054588
Analogously to Example 7a,b, after reacting 1-(2,4-dichlorophenyl)-2-tetrazol-1-yl-ethanone with benzyl chloride there was obtained 1-[2-(2,4-dichloro-phenyl)-2-benzyloxy-vinyl]-1H-tetrazole as colourless crystals with m.p. 92° C.

reactant | 1-(2,4-dichlorophenyl)-2-tetrazol-1-yl-ethanone | ClC1=C(C=CC(=C1)Cl)C(CN1N=NN=C1)=O | C9H6Cl2N4O
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 1-[2-(2,4-dichloro-phenyl)-2-benzyloxy-vinyl]-1H-tetrazole | ClC1=C(C=CC(=C1)Cl)C(=CN1N=NN=C1)OCC1=CC=CC=C1 | C16H12Cl2N4O
